US05438064
Step 1, 3-(Chloromethyl)-N,N-diethyibenzamide:
A sohtion of 3-(chloromethyl)benzoyl chloride (50 g, 264 mmol) in 200 ml of tetrahydrofuran was poured into a solution of diethylamine (607 mmol, 44.4 g, 63.1 ml) in 450 ml of rapidly stirring water. After 10 m, the mixture was extracted with 100 ml of ether and the extract was dried over MgSO4 and concentrated under recuced pressure affording 53.23 g (236 mmol, 89% yield) of the product as a clear oil.

reactant | 3-(chloromethyl)benzoyl chloride | 264 mmol, 50 g | ClCC=1C=C(C(=O)Cl)C=CC1 | C8H6Cl2O
reactant | diethylamine | 607 mmol, 63.1 ml, 44.4 g | C(C)NCC | C4H11N
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-(Chloromethyl)-N,N-diethyibenzamide | 236 mmol, 53.23 g, 89% yield | ClCC=1C=C(C(=O)N(CC)CC)C=CC1 | C12H16ClNO
